US04827012
A solution of ethyl chloroformate (1.74 g, 0.016 mol) in dichloromethane (10 mL) was added dropwise over a 1 hour period to a cold (5° C.) solution of 4-oxo-β-ionol (3.33 g, 0.016 mol, which may be prepared as described by R. Kaiser and D. Lamparsky, Helv. Chim. Acta, 1978, 61, 2328-2335), pyridine (1.28 g, 0.016 mol) and dichloromethane (30 mL). After stirring the mixure at 5°-10° C. for 2 hours it was added to ice water (20 mL) The organic layer was washed with 5% phosphoric acid solution until neutral and dried over sodium sulfate. The solvent was removed and the residue chromatographed. Kugelrohr distillation (bath temp. 150° C., 0.5 mm) gave 2.0 g (GLC purity; 85%) of 3-(3-hydroxy-1-butenyl)-2,4,4-trimethyl-2-cyclohexen--one ethyl carbonate. 1H-NMR (CDCl3) δ1.12 (6H,s), 1.35 (3H,d,J=7Hz), 1.40 (3H,t,J=7Hz), 1.77 (3H,s), 1.7-2.7 (4H,m), 4.20 (2H,q,J=7Hz), 4.8-5.4 (1H,m), 5.53 (1H,dd,J=16 and 6Hz), 6.31 (1H,d,J=16Hz); IR (film)vmax 2960, 1745, 1665, 1460, 1440, 1365, 1250 cm-1 ; MS m/e 280, 265, 236, 207, 191, 134.

reactant | ethyl chloroformate | 0.016 mol, 1.74 g | ClC(=O)OCC | C3H5ClO2
reactant | 4-oxo-β-ionol | 0.016 mol, 3.33 g | CC1=C(C(CCC1=O)(C)C)/C=C/C(C)O | C13H20O2
reactant | pyridine | 0.016 mol, 1.28 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 3-(3-hydroxy-1-butenyl)-2,4,4-trimethyl-2-cyclohexen--one ethyl carbonate | 2.0 g | C(C)OC(O)=O.OC(C=CC1=C(C(CCC1(C)C)=O)C)C | InChI=1S/C13H20O2.C3H6O3/c1-9(14)5-6-11-10(2)12(15)7-8-13(11,3)4;1-2-6-3(4)5/h5-6,9,14H,7-8H2,1-4H3;2H2,1H3,(H,4,5)
